US06573286B1
To a suspension of AlCl3 (20.4 g, 153 mmol) in dichloroethane (150 mL, DCE) was added 2-bromopropionyl chloride, freshly prepared from 2-bromopropionic acid (23.4 g, 153 mmol), excess thionyl chloride, and catalytic N,N-dimethylformamide, at 25° C. To the resulting mixture was added 3-bromotoluene (20.2 g, 118 mmol) at 17° C., and the dark solution was stirred at room temperature for 2 h. The reaction was cooled to 0° C. and satd aq NH4Cl was slowly added. The phases were separated and the organic layer was washed with additional satd aq NH4Cl, dried (Na2SO4), filtered, and concentrated in vacuo to give crude 2-bromo-1-(4-bromo-2-methylphenyl)propan-1-one as a dark oil. Flash chromatography (SiO2; 0-5% Et2O/Hexanes) afforded the desired product as the major component in a mixture of isomeric products (32.3 g crude). The resulting gold oil (10.0 g, 32.7 mmol) was dissolved in 1,2-dichloroethane (120 mL), and potassium acetate (4.8 g, 49 mmol) and benzyltriethylammonium chloride (0.37 g, 1.6 mmol) were added. The resulting mixture was heated to reflux and stirred for 6 h and then at 25° C. for 16 h. The reaction mixture was washed with water, and the organic phase was dried (Na2SO4), filtered, and concentrated in vacuo to give crude product as a yellow oil. Flash chromatography (SiO2; 0-20% Et2O/Hexanes) afforded the racemic product (5.0 g, 54%) as a yellow oil: 1H NMR (CDCl3) δ 1.42 (d, 3H, J=7.3 Hz), 2.11 (s, 3H), 2.41 (s, 3H), 5.69 (q, 1H, J=7.3 Hz), 7.38-7.44 (m, 2H), 7.52 (d, 1H, J=8.4 Hz); EI/MS 285 m/e (M+).

reactant | AlCl3 | 153 mmol, 20.4 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2-bromopropionyl chloride | BrC(C(=O)Cl)C | C3H4BrClO
reactant | 2-bromopropionic acid | 153 mmol, 23.4 g | BrC(C(=O)O)C | C3H5BrO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 3-bromotoluene | 118 mmol, 20.2 g | BrC=1C=C(C=CC1)C | C7H7Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | dichloroethane | 150 mL | ClC(C)Cl | C2H4Cl2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2-bromo-1-(4-bromo-2-methylphenyl)propan-1-one | BrC(C(=O)C1=C(C=C(C=C1)Br)C)C | C10H10Br2O
